### PR TITLE
Boogie: Generate default names during parsing

### PR DESCRIPTION
**Pull request by shigoel**
Default names are now generated for unlabeled axioms, variables, assertions, and assumptions; e.g., `axiom_0`, `axiom_1`, etc. This also generates saner obligation and SMT file names -- previously, we'd just use the string-representation of the expressions. See Strata/Languages/Boogie/Examples/AssertionDefaultNames.lean for an illustration.

Definitions of and proofs about `create[Asserts|Assumes]` have been modified to accommodate this naming scheme.

Remove crude generation of Unix + Windows safe names in `Imperative.smt2_filename`.

*Issue #, if available:*
https://github.com/strata-org/Strata/issues/64

*Description of changes:*

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/Languages/Boogie/Verifier.lean [hunk 1]
```diff
@@ -215,11 +215,13 @@ def verifySingleEnv (smtsolver : String) (pE : Program × Env) (options : Option
         --            {Std.Format.joinSep ifids.toList Std.Format.line}\
         --            {Format.line}"
         -- if !(ufids.isEmpty && ifids.isEmpty) then dbg_trace f!"{ufs}{ifs}"
+        -- let rand_suffix ← IO.rand 0 0xFFFFFFFF
```
Comment (atomb) [inline Strata/Languages/Boogie/Verifier.lean:218]: This looks like it could be removed.

File: Strata/Transform/CallElimCorrect.lean [hunk 2]
```diff
@@ -1619,31 +1619,46 @@ theorem createAssertsCorrect :
...
-    . assumption
-    . simp [Imperative.isDefinedOver, Command.modifiedVars,
-            Imperative.Cmd.modifiedVars,
-            Imperative.HasVarsImp.modifiedVars,
-            Imperative.isDefined]
-    . apply ih
-      intros pre Hin
-      apply Hpres
-      simp_all
+     simp; constructor; constructor; constructor; constructor
```
Comment (atomb) [inline Strata/Transform/CallElimCorrect.lean:1640]: Out of curiosity: how painful was it to update this proof? The ideal situation is clearly one where we can still have the benefits of verified properties without needing to spend substantial time keeping the proofs of those properties up-to-date. But I don't know whether we're anywhere near that. :)

File: Strata/Languages/Boogie/Verifier.lean (hunk 1 above)
Comment (shigoel) [reply Strata/Languages/Boogie/Verifier.lean:218]: Yeah -- I was toying with adding a random number as a suffix to uniquely identify the generated files to avoid clobbering VCs of the same name, but from different programs (esp. true in the context of unnamed defs, like `assert_0` etc). But the `#guard_msgs` wouldn't remain the same then; wouldn't matter for `StrataVerify`, I guess.

But yes, I can remove that line.

File: Strata/Transform/CallElimCorrect.lean (hunk 2 above)
Comment (shigoel) [reply Strata/Transform/CallElimCorrect.lean:1640]: Took me about an hour or so, but part of that time was spent in carefully reading the helper files, which turns out I didn't really need to. Coming up with the new induction scheme took a bit of "brain work", I admit.

**Review by andrewmwells-amazon — APPROVED** [review]
